US05789406
The preparation is carried out as in Example 36 but from 1.5 g of 8-amino-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-4-one hydrochloride, 30 ml of dimethylformamide, 0.97 g of triethylamine and 2.64 g of 3-fluorophenyl isocyanate. There is obtained 0.44 g of 8-[3-(3-fluoro-phenyl)ureido]-5H,10H-imidazo[1,2-a]indeno[1,2-e]-pyrazine-4-one in the form of a light brown solid melting above 260° C. (Analysis, % calculated C: 64.00, H: 3.76, F: 5.06, N: 18.66, O: 8.52, % found C: 64.1, H: 3.4, N: 18.6).

reactant | 8-amino-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-4-one hydrochloride | 1.5 g | Cl.NC1=CC=2CC3=C(NC(C=4N3C=CN4)=O)C2C=C1
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
reactant | 3-fluorophenyl isocyanate | 2.64 g | FC=1C=C(C=CC1)N=C=O | C7H4FNO
solvent | triethylamine | 0.97 g | C(C)N(CC)CC | C6H15N
product | 8-[3-(3-fluoro-phenyl)ureido]-5H,10H-imidazo[1,2-a]indeno[1,2-e]-pyrazine-4-one | 0.44 g | FC=1C=C(C=CC1)NC(NC1=CC=2CC3=C(NC(C=4N3C=CN4)=O)C2C=C1)=O | C20H14FN5O2
